US05750550
To a solution of 2-furfuryl alcohol (8.24 g; 84 mmol) in 55 ml of acetic acid was added dropwise a solution of N,N,N',N'-tetraethyl-methylenediamine (20 g; 126 mmol)in 25 ml of acetic acid, and the solution was stirred at 0° C. for 30 minutes and at room temperature for 17 hours. The above solution was concentrated in vacuo, the residue was basified with dropwise addition of 30% of NaOH solution at 0° C. (to pH=11), and the mixture was extracted with ethyl acetate. The mixture was filtered, the organic layer was dried over sodium sulfate and concentrated in vacuo to yield a brown oil. The oil was distilled with a Kugelrohr Apparatus to afford 12.33 g (80%) of 5-diethylaminomethyl-2-hydroxymethylfuran as a yellow oil, b.p. 140° C./1 mm.

reactant | 2-furfuryl alcohol | 84 mmol, 8.24 g | C1=COC(=C1)CO | C5H6O2
reactant | N,N,N',N'-tetraethyl-methylenediamine | 126 mmol, 20 g | C(C)N(CN(CC)CC)CC | C9H22N2
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-diethylaminomethyl-2-hydroxymethylfuran | 12.33 g, 80% | C(C)N(CC)CC1=CC=C(O1)CO | C10H17NO2
